US04353898
2β-Ethoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-pregnan-20-one
11α-amino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one 20-ethylene acetal (20 g) in ethanol (200 ml) was stirred with K2CO3 (25 g), NaI (1 g) and 1-bromo-3-methylbutane (50 ml) and the mixture was heated at reflux for 24 h. The excess K2CO3 was removed by filtration and washed with ethanol. The filtrate and washings were acidified with 2M-HCl to pH 2, washed with ether and the ether wash in turn washed with M-HCl and water (x3). The aqueous layers were brought to pH 10 with 2M-NaOH and the resulting suspension was extracted with ether (x2). The ether layers were combined, washed with water (x2), dried and evaporated to leave a froth (18.96 g), which was purified by column chromatography eluted with CHCl3 /MeOH (19:1) and crystallised from acetonitrile to give the title compound (9.211 g), m.p. 110.5°-112° C., [α ]D +56°.

reactant | 11α-amino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one 20-ethylene acetal | 20 g | C1COC(C)([C@H]2CC[C@H]3[C@@H]4CC[C@H]5C[C@@H]([C@H](C[C@]5(C)[C@H]4[C@@H](C[C@]23C)N)OCC)O)O1 | C25H43NO4
reactant | K2CO3 | 25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 1 g | [Na+].[I-]
reactant | 1-bromo-3-methylbutane | 50 ml | BrCCC(C)C | C5H11Br
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2β-Ethoxy-3α-hydroxy-11α-(3-methylbutylamino)-5α-pregnan-20-one | 9.211 g | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C)O | C28H49NO3
